US07514470B2
2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]butanamide
Synthesized as described in example 3 using 2-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]butanoic acid and ammonia: 1H NMR (400 MHz, CDCl3) δ 7.60 (d, J=9.0 Hz, 1H), 7.17 (d, J=2.6 Hz, 1H), 7.03 (dd, J=9.0, 2.8 Hz, 1H), 6.38 (bs, 1H), 6.27 (bs, 1H), 4.25-4.04 (m, 3H), 2.15 (m, 1H), 1.91 (m, 1H), 0.99 (t, J=7.4 Hz, 3H).

reactant | 2-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]butanoic acid | C(#N)C1=C(C=C(C=C1)N(C(C(=O)O)CC)CC(F)(F)F)C(F)(F)F | C14H12F6N2O2
reactant | ammonia | N | H3N
product | 2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]butanamide | C(#N)C1=C(C=C(C=C1)N(C(C(=O)N)CC)CC(F)(F)F)C(F)(F)F | C14H13F6N3O
